US07238775B2
HBr gas (39.4 g, 486 mmol) was bubbled into a solution of 2-vinylnaphthalene (75 g, 486 mmol) in benzene (100 mL) over a period of 7-8 hours at 55-60° C. The solution was cooled to room temperature, and the benzene with the small excess of HBr was removed under vacuum yielding 105 g (91%) crude of 2-(1-Bromoethyl)-naphthalene. It was used without further purification. C12H11Br; MS: 235.12.

reactant | HBr | 486 mmol, 39.4 g | Br | BrH
reactant | 2-vinylnaphthalene | 486 mmol, 75 g | C(=C)C1=CC2=CC=CC=C2C=C1 | C12H10
solvent | benzene | 100 mL | C1=CC=CC=C1 | C6H6
product | 2-(1-Bromoethyl)-naphthalene | BrC(C)C1=CC2=CC=CC=C2C=C1 | C12H11Br
